US09163021B2
(R) and (S)-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]{5-[(diphenylmethylene)amino]pyridin-3-yl}methanone
To a solution of (5-bromopyridin-3-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone (Enantiomer 1, Preparation 41, 3.2 g, 0.067 mol) in toluene (90 mL) was added tBuXphos (785 mg, 0.0018 mol), NaOtBu (605 mg, 0.0018 mol), benzophenone imine (1.34 g, 0.0074 mol) and Pd2(dba)3 and the reaction was stirred at room temperature for 18 hours. The reaction was filtered through celite and the filtrate extracted into EtOAc. The organic layer was collected, washed with brine, dried over sodium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 50% EtOAc in heptanes to afford the title compound (1.3 g, 33%).

reactant | (5-bromopyridin-3-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | 0.067 mol, 3.2 g | BrC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO[Si](C)(C)C(C)(C)C)C | C22H28BrN3O2Si
reactant | tBuXphos | 0.0018 mol, 785 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC=CC=C2P(C(C)(C)C)C(C)(C)C)C(C)C | C29H45P
reactant | NaOtBu | 0.0018 mol, 605 mg | CC(C)(C)[O-].[Na+]
reactant | benzophenone imine | 0.0074 mol, 1.34 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]{5-[(diphenylmethylene)amino]pyridin-3-yl}methanone | 1.3 g, 33% | [Si](C)(C)(C(C)(C)C)OC[C@H](C)N1C=C(C=2C=NC=CC21)C(=O)C=2C=NC=C(C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C35H38N4O2Si
